Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived / Egg / Loratadine
 
Attending: ___.
 
Chief Complaint:
Lower GI bleed
 
Major Surgical or Invasive Procedure:
EGD
Colonoscopy

 
History of Present Illness:
Ms. ___ is a ___ year-old woman presenting with BRBPR since 
this AM and some intermittent crampy abdominal pain.  

Reports >16 episodes of fresh blood, few mixed with stool.  She 
denies melena.  She also has some lower abdominal cramping prior 
to defecation, which then resolved.  She has tenderness to 
palpation.  No nausea/vomiting.  Pt reports lightheadedness, but 
not orthostatic.  This is the first episode of rectal bleeding.  
No NSAIDs, ASA use.  Did not eat much today.  + chills, no 
fevers.  No weight loss.

Of note, per PCP notes, she had a colonoscopy in ___ with 
extensive diverticulosis.

In the ED, initial VS were:  97.4 98 102/66 18 99.  Labs were 
notable for HCT 35.9.  GI was consulted.  Bleeding scan was 
ordered.  The patient received 1L NS.  She has 2 PIVs.  Vitals 
prior to transfer to the floor were:  T96, 65, 123/72, 16, 99RA. 
  

Review of Systems:  
(+) Per HPI:  headache, palpitations, chronic low back pain, 
rash on back of head (pruritic)  
(-) Denies fever, night sweats, recent weight loss or gain. 
Denies sinus tenderness, rhinorrhea or congestion. Denies chest 
pain or tightness. Denies cough, shortness of breath, or 
wheezes. No dysuria, urinary frequency. Denies Denies rashes. 
All other review of systems negative. 
 
Past Medical History:
Diverticulosis
Peptic ulcer disease, h/o H. pylori but was not able to tolerate 
the treatment
Allergic rhinitis
GERD
Spinal stenosis
Osteoarthritis of the knee
Osteopenia
Vitamin D deficiency
Stress urinary incontinence
Obesity
 
Social History:
___
Family History:
Her brothers have ulcers, DM.  Her sisters have DM.
 
Physical Exam:
Vitals:  95.9, 125/75, 71, 18, 100RA
Gen: NAD, AOX3 
HEENT: MMM, sclera anicteric, not injected
Neck: no LAD
Cardiovascular: RRR normal s1, s2, II/VI systolic murmur at USBs
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi  
Abd: normoactive bowel sounds, soft, mildly tender in lower 
quadrant, non distended
Extremities: No edema, 2+ ___ pulses
Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, not anxious 
 
Pertinent Results:
Admission labs:
___ 04:25PM   WBC-6.9 RBC-3.84* HGB-11.9* HCT-35.9* MCV-93 
MCH-30.9 MCHC-33.1 RDW-14.5
___ 04:25PM   NEUTS-68.5 ___ MONOS-4.2 EOS-1.8 
BASOS-0.2
___ 04:25PM   PLT COUNT-176
___ 04:25PM   GLUCOSE-116* UREA N-24* CREAT-0.7 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-106 TOTAL CO2-25 ANION GAP-12
___ 04:25PM   ___ PTT-24.7 ___

HCT ___ 44.1

ECG: 
1. Small Hiatal hernia
2. Otherwise normal EGD to third part of the duodenum

Colonoscopy:
1. Numerous diverticuli

Bleeding study:
1. Normal study without evidence of GI bleeding up to 4 hours 
after injection 

 
Brief Hospital Course:
1. Lower GIB.  Given findings on bleeding study, EGD, and 
colonoscopy, this was most likely due to diverticulosis.  At the 
time of discharge, patient had not experienced episode of 
bleeding for >48 hours.

2. Acute blood loss anemia.  HCT nadired at 24 requiring 2 units 
of pRBC.  HCT on day of discharge was 33.6
 
Medications on Admission:
Omeprazole 20 mg daily prn
Loratadine 10 mg daily prn
Miralax
Sertraline 50 mg daily (not taking per daughter)
___ 100 mg daily
Fluticasone NS

 
Discharge Medications:
1. Omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
2. Loratadine 10 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for allergy symptoms.  
3. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
4. Fluticasone  Nasal
5. Miralax  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Diverticulosis
2. Acute blood loss anemia
 
Discharge Condition:
Hemodynamically stable
 
Discharge Instructions:
You were admitted with bleeding which was likely due to 
diverticuli in the colon.  The bleeding stopped on it's own 
though you required 2 units of blood transfusion.
 
Followup Instructions:
___